US07199244B2
N-((1R)-6-((1S)-1-methyl-2-(1-piperidinyl)ethyl)-1,2,3,4-tetrahydro-1-naphthalenyl)-2-((2S)-1-((3-(trifluoromethyl)phenyl)sulfonyl)-2-piperidinyl)acetamide
A mixture of N-[6-(1-piperidin-1-ylmethyl-vinyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-2-[1-(3-trifluoromethyl-benzenesulfonyl)-piperidin-2-yl]-acetamide (34 mg, 0.05 mmol), EtOH (2 mL), Pd/Al2O3 (Johnson Matthey, 12 mg, 0.1 eq) was purged with H2 and connected to a H2 balloon for 30 min at RT. The catalyst was filtered through Celite and washed with MeOH. The filtrate was concentrated in vacuo. The crude was purified by silica gel chromatography (7%–10% MeOH—CH2Cl2) to afford the title compound as a mixture of two diastereomers. MS (ESI): 606 (M+H)+. Calc'd for C32H42F3N3O3S—605.29.

reactant | N-[6-(1-piperidin-1-ylmethyl-vinyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-2-[1-(3-trifluoromethyl-benzenesulfonyl)-piperidin-2-yl]-acetamide | 0.05 mmol, 34 mg | N1(CCCCC1)CC(=C)C=1C=C2CCCC(C2=CC1)NC(CC1N(CCCC1)S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)=O | C32H40F3N3O3S
solvent | EtOH | 2 mL | CCO | C2H6O
product | N-((1R)-6-((1S)-1-methyl-2-(1-piperidinyl)ethyl)-1,2,3,4-tetrahydro-1-naphthalenyl)-2-((2S)-1-((3-(trifluoromethyl)phenyl)sulfonyl)-2-piperidinyl)acetamide | C[C@H](CN1CCCCC1)C=1C=C2CCC[C@H](C2=CC1)NC(C[C@H]1N(CCCC1)S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)=O | C32H42F3N3O3S
